US06291452B1
To a mixture of N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-5-hydroxymethyl-9-methyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea (147 mg) and diisopropylethylamine (55.1 mg) in methylene chloride (2 ml) was added dropwise a solution of methanesulfonyl chloride (48.7 mg) in methylene chloride (1 ml) under stirring and cooling at 0-5° C. in an ice-bath. The mixture was stirred for 1.5 hours under the same conditions. The reaction mixture was evaporated in vacuo to afford a residue, which was dissolved in tetrahydrofuran (2 ml) and cooled in an ice-bath. To the solution prepared above was added 15% aqueous solution of sodium methylmercaptide (0.5 g). The mixture was stirred under cooling for 0.5 hour and at ambient temperature for 2 hours. The reaction mixture was evaporated in vacuo to afford a residue, which was dissolved in ethyl acetate and washed with water twice. The separated organic layer was dried over magnesium sulfate and evaporated in vacuo to afford an amorphous mass, which was subjected to preparative thin-layer chromatography on silica gel developing with a mixture of chloroform and methanol (10:1) to give N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-5-methylthiomethyl-9-methyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-N′-(3-methyphenyl)urea as an amorphous mass. This was triturated in diisopropyl ether and collected by filtration to give a crystalline powder (71.9 mg, 41.7% yield).

reactant | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-5-hydroxymethyl-9-methyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea | 147 mg | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)C)CO)NC(=O)NC1=CC(=CC=C1)C)=O | C29H35N5O4
reactant | diisopropylethylamine | 55.1 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 48.7 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium | [Na] | Na
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-5-methylthiomethyl-9-methyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-N′-(3-methyphenyl)urea | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)C)CSC)NC(=O)NC1=CC(=CC=C1)C)=O | C30H37N5O3S
